US05202441
Hexamethylene Di-[4-(N-(2,2,6,6-tetramethylpiperidin-4-yl)-N-hydroxyaminomethyl)benzoate]
from 2,2,6,6-tetramethylpiperidin-4-one oxime and hexamethylene di-(4-bromomethylbenzoate)

reactant | 2,2,6,6-tetramethylpiperidin-4-one oxime | CC1(NC(CC(C1)=NO)(C)C)C | C9H18N2O
reactant | hexamethylene di-(4-bromomethylbenzoate) | BrCC1=CC=C(C(=O)OCCCCCCOC(C2=CC=C(C=C2)CBr)=O)C=C1 | C22H24Br2O4
product | Hexamethylene Di-[4-(N-(2,2,6,6-tetramethylpiperidin-4-yl)-N-hydroxyaminomethyl)benzoate] | CC1(NC(CC(C1)N(O)CC1=CC=C(C(=O)OCCCCCCOC(C2=CC=C(C=C2)CN(O)C2CC(NC(C2)(C)C)(C)C)=O)C=C1)(C)C)C | C40H62N4O6
